US06307087B1
Synthesis of 2-cyanomethylbiphenyl
An oven dried resealable Schlenk tube was evacuated and backfilled with argon and charged with palladium acetate (2.2 mg, 0.01 mmol, 1.0 mol %), 2-(di-tert-butylphosphino)biphenyl (6.0 mg, 0.020 mmol, 2.0 mol %), phenylboron dihydroxide (183 mg. 1.5 mmol), and potassium fluoride (174 mg, 3.0 mmol). The tube was evacuated and backfilled with argon, and THF (1 mL) and 2-chlorobenzyl cyanide (152 mg, 1.0 mmol) were added through a rubber septum. The tube was sealed with a teflon screwcap, and the reaction mixture was stirred at room temperature until the starting aryl chloride had been completely consumed as judged by GC analysis. The reaction mixture was then diluted with ether (30 mL) and poured into a separatory funnel. The mixture was washed with 1.0 M NaOH (20 mL), and the aqueous layer was extracted with ether (20 mL). The combined organic layers were washed with brine (20 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude material was purified by flash chromatography on silica gel to afford 178 mg (92%) of the title compound.

reactant | phenylboron dihydroxide | 1.5 mmol, 183 mg | [OH-].[OH-].C1(=CC=CC=C1)[B+2]
reactant | potassium fluoride | 3.0 mmol, 174 mg | [F-].[K+]
reactant | 2-chlorobenzyl cyanide | 1.0 mmol, 152 mg | ClC1=C(CC#N)C=CC=C1 | C8H6ClN
catalyst | palladium acetate | 0.01 mmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 0.020 mmol, 6.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-cyanomethylbiphenyl | 178 mg, 92% | C(#N)CC1=C(C=CC=C1)C1=CC=CC=C1 | C14H11N
